### PR TITLE
[Merged by Bors] - chore(CategoryTheory): generalize `EqualizerCondition.bijective_mapToEqualizer_pullback` to abstract pullback cones

### PR DESCRIPTION
**Pull request by dagurtomas**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean [hunk 1]
```diff
@@ -88,19 +88,34 @@ def MapToEqualizer (P : Cᵒᵖ ⥤ Type*) {W X B : C} (f : X ⟶ B)
...
-theorem EqualizerCondition.bijective_mapToEqualizer_pullback (P : Cᵒᵖ ⥤ Type*)
-    (hP : EqualizerCondition P) : ∀ (X B : C) (π : X ⟶ B) [EffectiveEpi π] [HasPullback π π],
-    Function.Bijective
-      (MapToEqualizer P π (pullback.fst π π) (pullback.snd π π) pullback.condition) := by
-  intro X B π _ _
-  specialize hP π _ (pullbackIsPullback π π)
+theorem EqualizerCondition.bijective_mapToEqualizer_pullback' {P : Cᵒᵖ ⥤ Type*}
+    (hP : EqualizerCondition P) {X B : C} {π : X ⟶ B} [EffectiveEpi π]
+    (c : PullbackCone π π) (hc : IsLimit c) :
+    Function.Bijective (MapToEqualizer P π c.fst c.snd c.condition) := by
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean]: Could you also fix the case of `MapToEqualizer` in this PR?

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

**Review by robin-carlier — COMMENTED** [review]
~~Thanks!~~

~~maintainer merge~~

Ah, It was on my list for today and left open the tab, not even noticing it was merged :sweat_smile:
